US06521754B2
3-Methoxy-5-nitro-biphenyl
1-Iodo-3-methoxy-5-nitro-benzene (279 mg, 1 mmol), phenylboronic acid (146 mg, 1.2 mmol), potassium carbonate (2M, 1.0 ml) and tetrakis(triphenylphosphino)palladium(0) are dissolved in ethanol (0.5 ml) and toluene (10 ml) and the mixture heated to 90° C. for 24 h. The volatile components are removed in vacuo and the residue codistilled twice with toluene. Flash chromatography (silica, eluent dichloromethane/cyclohexane 1:2) affords the product (185 mg, 81%) as light brown solid. MS: m/e=229 (M+).

reactant | 1-Iodo-3-methoxy-5-nitro-benzene | 1 mmol, 279 mg | IC1=CC(=CC(=C1)[N+](=O)[O-])OC | C7H6INO3
reactant | phenylboronic acid | 1.2 mmol, 146 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 2M, 1.0 ml | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphino)palladium(0) | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Methoxy-5-nitro-biphenyl | 185 mg, 81% | COC=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H11NO3
